US06310086B1
(R)-5-[2-[[2-(2-Ethoxyphenoxy)ethyl]amino]propyl]-1-(3-hydroxypropyl)-2,3-dihydro-1H-indole-7-carboxamide (10.9 g) was dissolved in methylene chloride(100 ml), and a solution of di-tert-butyl dicarbonate (5.87 g) in methylene chloride (25 ml) was added dropwise to the solution with stirring under ice-cooling. After being stirred for 30 minutes under the same condition, the reaction mixture was stirred for 10 hours at room temperature. The reaction mixture was concentrated in vacuo, and the residue was dissolved in ethyl acetate (150 ml). The solution was washed with 10% aqueous citric acid solution, a saturated aqueous sodium bicarbonate solution and brine subsequently, and dried over anhydrous sodium sulfate. The solvent was removed in vacuo to give pale brown amorphous tert-butyl (R)-N-[2-[7-carbamoyl-1-(3-hydroxypropyl)-2,3-dihydro-1H-indol-5-yl]-1-methylethyl]-N-[2-(2-ethoxyphenoxy)ethyl]carbamate (10.2 g).

reactant | (R)-5-[2-[[2-(2-Ethoxyphenoxy)ethyl]amino]propyl]-1-(3-hydroxypropyl)-2,3-dihydro-1H-indole-7-carboxamide | 10.9 g | C(C)OC1=C(OCCN[C@@H](CC=2C=C3CCN(C3=C(C2)C(=O)N)CCCO)C)C=CC=C1 | C25H35N3O4
reactant | di-tert-butyl dicarbonate | 5.87 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (R)-N-[2-[7-carbamoyl-1-(3-hydroxypropyl)-2,3-dihydro-1H-indol-5-yl]-1-methylethyl]-N-[2-(2-ethoxyphenoxy)ethyl]carbamate | 10.2 g | C(N)(=O)C=1C=C(C=C2CCN(C12)CCCO)C[C@@H](C)N(C(OC(C)(C)C)=O)CCOC1=C(C=CC=C1)OCC | C30H43N3O6
